US07906652B2
3-[(4-chlorophenyl)(3-{2-fluoro-1-[3-fluoro-5-(hydroxymethyl)phenyl]-2-methylpropyl}azetidin-1-yl)methyl]benzonitrile
To the mixture of 42 mg (0.08 mmol) of ethyl 3-(1-{1-[(4-chlorophenyl)(3-cyanophenyl)methyl]azetidin-3-yl}-2-fluoro-2-methylpropyl)-5-fluorobenzoate in 3 mL of THF was added 0.18 mL (0.36 mmol) of 2 M LiBH4 solution in THF and the solution was stirred overnight at rt. Then it was poured into 20 mL of CH2Cl2 and 5 mL of water. The water layer was extracted with CH2Cl2 and the combined organic layer was concentrated. The residue was purified by silica gel chromatography with hexane/ethyl acetate to afford the title compound as a white solid; Mass Spectrum: m/e=481 (M+1, 35Cl), 483 (M+1, 37Cl).

reactant | ethyl 3-(1-{1-[(4-chlorophenyl)(3-cyanophenyl)methyl]azetidin-3-yl}-2-fluoro-2-methylpropyl)-5-fluorobenzoate | 0.08 mmol, 42 mg | ClC1=CC=C(C=C1)C(N1CC(C1)C(C(C)(C)F)C=1C=C(C(=O)OCC)C=C(C1)F)C1=CC(=CC=C1)C#N | C30H29ClF2N2O2
reactant | LiBH4 | 0.36 mmol, 2 M, 0.18 mL | [Li+].[BH4-]
reactant | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
reactant | water | 5 mL | O | H2O
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | 3-[(4-chlorophenyl)(3-{2-fluoro-1-[3-fluoro-5-(hydroxymethyl)phenyl]-2-methylpropyl}azetidin-1-yl)methyl]benzonitrile | ClC1=CC=C(C=C1)C(C=1C=C(C#N)C=CC1)N1CC(C1)C(C(C)(C)F)C1=CC(=CC(=C1)CO)F | C28H27ClF2N2O
